US05594023
A) 1-Methoxycarbonylindoline
A solution of 10 g of indoline in 10 ml of pyridine is cooled to 0° C., a solution of 7.9 g of methyl chloroformate in 10 ml of DCM is added dropwise and the mixture is stirred for 1 hour at 0° C. A further solution of 7.9 g of methyl chloroformate in 10 ml of DCM is then added and the reaction mixture is concentrated under vacuum. The residue is taken up with water and extracted with AcOEt, the organic phase is washed with a 5% solution of potassium hydrogensulfate, with water and with a saturated solution of NaCl and dried over sodium sulfate and the solvent is evaporated off under vacuum to give 8.3 g of the expected product after trituration in a DCM/iso ether mixture and then filtration. M.p.=69°-70° C.

reactant | indoline | 10 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | methyl chloroformate | 7.9 g | ClC(=O)OC | C2H3ClO2
reactant | methyl chloroformate | 7.9 g | ClC(=O)OC | C2H3ClO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-Methoxycarbonylindoline | 8.3 g | COC(=O)N1CCC2=CC=CC=C12 | C10H11NO2
